US05250527
A solution of bromine (9.3 ml) in dimethylformamide (50 ml) was added dropwise-to a stirred mixture of 4 -piperidino-2 -picoline (15 g), potassium carbonate (23.5. g) in dimethylformamide (50 ml) at 25°-30°. After 3.5 hours, the mixture was stripped and the residue taken up in water, adjusted to pH 13 with 40 % aqueous NAOH, and extracted with ether. After drying (K2CO3 ) and stripping, the residue was chromatographed (silica gel, n-hexane:ether) to give 4 -piperidino-5 -bromo-2 -picoline, 11.18 g, as an oil and 4 -piperidino-3 -bromo-2 -picoline, 3.5 g, as an oil.

reactant | bromine | 9.3 ml | BrBr | Br2
reactant | 4 -piperidino-2 -picoline | 15 g | N1(CCCCC1)C1=CC(=NC=C1)C | C11H16N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4 -piperidino-5 -bromo-2 -picoline | N1(CCCCC1)C1=CC(=NC=C1Br)C | C11H15BrN2
